US03944679
The above-described aromatic composition according to the present process is added in an amount of 1 ppm to the materials of cookies, and this materials are baked to form cookies. Likewise, the mixture (in the ratio 2:1) of 2-methyl-5,6-methylenedioxyindan-1-one and 3,4-dimethyl-7-hydroxyindan-1-one is dissolved in ethanol in an amount of 5 %, and the solution is added to the materials of cookies in an amount to give 10 ppm by weight of said indanone compounds mixture to the materials of cookies, and the materials are baked.

reactant | 2-methyl-5,6-methylenedioxyindan-1-one | CC1C(C2=CC3=C(C=C2C1)OCO3)=O | C11H10O3
solvent | 3,4-dimethyl-7-hydroxyindan-1-one | CC1CC(C2=C(C=CC(=C12)C)O)=O | C11H12O2
solvent | ethanol | C(C)O | C2H6O
product | indanone | C1(CCC2=CC=CC=C12)=O | C9H8O
